US07943610B2
2-(2,5-Dimethylpyrrol-1-yl)phenylacetonitrile (15 mmol) and diethyl oxalate (4.38 g, 30 mml) were sequentially added neat washing with ethanol (15 mL) to a solution of sodium tert-butoxide (1.73 g, 18 mmol) in ethanol (15 mL). The reaction mixture was heated at reflux under a nitrogen atmosphere for 4.5 hours to provide a solution of ethyl 3-cyano-3-[2-(2,5-dimethylpyrrol-1-yl)phenyl]-2-oxopropionate in ethanol.

reactant | 2-(2,5-Dimethylpyrrol-1-yl)phenylacetonitrile | 15 mmol | CC=1N(C(=CC1)C)C1=C(C=CC=C1)CC#N | C14H14N2
reactant | diethyl oxalate | 4.38 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium tert-butoxide | 18 mmol, 1.73 g | CC(C)([O-])C.[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | ethyl 3-cyano-3-[2-(2,5-dimethylpyrrol-1-yl)phenyl]-2-oxopropionate | C(#N)C(C(C(=O)OCC)=O)C1=C(C=CC=C1)N1C(=CC=C1C)C | C18H18N2O3
